US09216980B2
3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxamide
A solution of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (67.3 mg, 0.168 mmol) in 7M ammonia in methanol (8.0 mL) was heated to 70° C. for 24 h in a sealed tube. The mixture was allowed to cool and concentrated in vacuo. The residue was dissolved in DMSO and purified by preparative HPLC (2-60% MeCN/water modified with 0.1% ammonium hydroxide) to afford a light-yellow fluffy solid (10.3 mg, 16%). 1H NMR (DMSO-D6, 500 MHz): 12.56 (s, 1H), 9.18 (d, J=2.2 Hz, 1H), 9.00 (s, 1H), 8.96 (d, J=2.1 Hz, 1H), 8.90 (s, 1H), 8.10 (s, 1H), 7.79 (d, J=8.1 Hz, 2H), 7.53 (s, 1H), 7.44 (d, J=8.1 Hz, 2H), 3.49 (s, 2H), 2.36 (m, 4H), 1.56-1.47 (m, 4H), 1.40 (m, 2H). LCMS (Method D): RT=5.88 min, M+H+=386.

reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 0.168 mmol, 67.3 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C24H24N4O2
reactant | ammonia | 7M | N | H3N
solvent | methanol | 8.0 mL | CO | CH4O
product | 3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxamide | 10.3 mg, 16% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)N)N=C1 | C23H23N5O
